US05665718
2 g (6.2 mmol) of (S)-1-(3-aminomethyl-1,2,4-oxadiazol-5-yl)-12,12a-dihydro-9H,11H-azeto[2,1-c]imidazo[1,5-a][1,4]benzodiazepin-9-one, 30 ml of N,N-dimethylformamide, 3.7 ml (21.7 mmol) of N-ethyldiisopropylamine and 1.6 ml (14.3 mmol) of 1-iodobutane were stirred at room temperature for 6 hours and at 80° for 1.5 hours. The reaction mixture was evaporated and the residue was chromatographed on 180 g of silica gel while eluting with methylene chloride/ethyl acetate 7/3. By concentrating the uniform fractions there were obtained 1.6 g (59%) of S)-1-(3-di-butylaminomethyl-1,2,4-oxadiazol-5-yl)-12,12a-dihydro-9H,11H-azeto[2,1-c]imidazo[1,5-a][1,4]benzodiazepin-9-one, which was converted into the hydrochloride.

reactant | (S)-1-(3-aminomethyl-1,2,4-oxadiazol-5-yl)-12,12a-dihydro-9H,11H-azeto[2,1-c]imidazo[1,5-a][1,4]benzodiazepin-9-one | 6.2 mmol, 2 g | NCC1=NOC(=N1)C=1N=CN2C1[C@H]1N(C(C3=C2C=CC=C3)=O)CC1 | C16H14N6O2
reactant | N-ethyldiisopropylamine | 21.7 mmol, 3.7 ml | C(C)N(C(C)C)C(C)C | C8H19N
reactant | 1-iodobutane | 14.3 mmol, 1.6 ml | ICCCC | C4H9I
reactant | N,N-dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | 1-(3-di-butylaminomethyl-1,2,4-oxadiazol-5-yl)-12,12a-dihydro-9H,11H-azeto[2,1-c]imidazo[1,5-a][1,4]benzodiazepin-9-one | C(CCC)N(CCCC)CC1=NOC(=N1)C=1N=CN2C1C1N(C(C3=C2C=CC=C3)=O)CC1 | C24H30N6O2
